US08013008B2
Under an argon atmosphere, a solution (315 mL) of diisopropylamine (31.2 g) in dehydrated THF was cooled to −10° C., 1.6 mol/L butyllithium-hexane solution (175.3 mL) was added at −5° C. or below, and the mixture was stirred at the same temperature for 30 min. Then the mixture was cooled to −78° C., and a solution (65 mL) of ethyl acetate (24.7 g) in dehydrated THF was added dropwise at −70° C. or below. After stirring at the same temperature for 1 hr, a solution (70 mL) of benzyl [(1S)-1-formyl-2-methylpropyl]carbamate (16.5 g) in dehydrated THF was added dropwise at −65° C. or below. After stirring at −70° C. for 1 hr, acetic acid (36 g) was added, and the mixture was warmed to 0° C. The reaction mixture was poured into ice water, the mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=19/1→3/2) to give ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxy-5-methylhexanoate as colorless oil (yield: 15.4 g).

reactant | diisopropylamine | 315 mL, 31.2 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium hexane | 1.6 mol/L, 175.3 mL | C(CCC)[Li].CCCCCC
reactant | ethyl acetate | 65 mL, 24.7 g | C(C)(=O)OCC | C4H8O2
reactant | benzyl [(1S)-1-formyl-2-methylpropyl]carbamate | 70 mL, 16.5 g | C(=O)[C@H](C(C)C)NC(OCC1=CC=CC=C1)=O | C13H17NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | acetic acid | 36 g | C(C)(=O)O | C2H4O2
product | ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxy-5-methylhexanoate | yield: 15.4 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O)C(C)C | C17H25NO5
